US08026234B2
Compound 147: 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-methoxy-N-(1-methylpiperidin-4-yl)benzamide
The title compound was synthesized from 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-methoxybenzoic acid as described in the general procedure for amide bond synthesis using HATU and 1-methylpiperidin-4-amine. The final compound was purified by reverse phase HPLC. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.48-2.22 (m, 14H) 2.66-2.88 (m, 2H) 3.05 (m, 2H) 3.33 (s, 3H) 3.46 (d, J=11 Hz, 2H) 3.86 (s, 3H) 4.05 (t, J=14 Hz, 3H) 4.81 (m, 1H) 7.49 (m, 2H) 7.64 (m, 1H) 7.93 (d, J=7 Hz, 1H) 8.28 (s, 1H) 9.69 (s, 1H). [M+H] calc'd for C27H35F2N7O3, 544. found 544.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methylpiperidin-4-amine | CN1CCC(CC1)N | C6H14N2
product | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-methoxy-N-(1-methylpiperidin-4-yl)benzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C27H35F2N7O3
